US06391827B1
Preparation of 4-bromo-3-[4-chloro-2-fluoro-5-(2-propinyl oxy)phenyl]-2-chloro-1-methyl-5-trifluoromethyl pyrrole (Compound Nr. 17).
2 propinyl methanesulfonate (0.22 g; 1.61 mmoles) is added to a mixture of 4-bromo-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-chloro-1-methyl-5-trifluoromethyl pyrrole (0.6 g; 1.47 mmoles) and potassium carbonate (0.21 g; 1.54 mmoles) in methylisobutylketone (6 ml). The mixture is heated to 80° C. for 3 hours. The reaction mixture is poured into water (10 ml), extracted with ethyl ether (3×20 ml), the ether phase is washed with a saturated solution of sodium chloride, anhydrified with sodium sulfate and concentrated in a rotavapor. The raw product obtained (0.65 g) is chromatographed on silica gel, eluating with n-hexane/ethyl acetate 85:15. 0.28 g of solid white product with a melting point of 87° C., are obtained.

reactant | propinyl methanesulfonate | 1.61 mmoles, 0.22 g | CS(=O)(=O)OC#CC | C4H6O3S
reactant | 4-bromo-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-chloro-1-methyl-5-trifluoromethyl pyrrole | 1.47 mmoles, 0.6 g | BrC=1C(=C(N(C1C(F)(F)F)C)Cl)C1=C(C=C(C(=C1)O)Cl)F | C12H6BrCl2F4NO
reactant | potassium carbonate | 1.54 mmoles, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | methylisobutylketone | 6 ml | CC(=O)CC(C)C | C6H12O
product | 4-bromo-3-[4-chloro-2-fluoro-5-(2-propinyl oxy)phenyl]-2-chloro-1-methyl-5-trifluoromethyl pyrrole | 0.28 g | BrC=1C(=C(N(C1C(F)(F)F)C)Cl)C1=C(C=C(C(=C1)OCC#C)Cl)F | C15H8BrCl2F4NO
